US07842685B2
A mixture of 2-(4-(bromomethyl)-2-nitrophenyl)-5-(1-phenylcyclopropyl)-thiazolo[5,4-b]pyridine (0.363 g, 0.778 mmol), methyl azetidine-3-carboxylate hydrochloride (0.354 g, 2.34 mmol), N,N-diisopropylethylamine (0.812 mL, 4.67 mmol) in 3 mL DMF was heated in a sealed vial to 80° C. for 1 h. The reaction mixture was cooled and allowed to stand overnight. In the morning the reaction mixture was treated with ice, sat'd aq. NaHCO3, and EA. The organic layer was washed with water, brine, dried over sodium sulfate, filtered, and concentrated in vacuo. Purification by silica gel chromatography, 40 g, 0-10% MeOH/DCM gave methyl 1-((3-nitro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)methyl)azetidine-3-carboxylate as a yellow oil. MS (ESI) m/z: Calculated: 500.2; Observed: 500.7 (M++1).

reactant | 2-(4-(bromomethyl)-2-nitrophenyl)-5-(1-phenylcyclopropyl)-thiazolo[5,4-b]pyridine | 0.778 mmol, 0.363 g | BrCC1=CC(=C(C=C1)C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)[N+](=O)[O-] | C22H16BrN3O2S
reactant | methyl azetidine-3-carboxylate hydrochloride | 2.34 mmol, 0.354 g | Cl.N1CC(C1)C(=O)OC
reactant | N,N-diisopropylethylamine | 4.67 mmol, 0.812 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | EA | CC(OCC)=O | C4H8O2
product | methyl 1-((3-nitro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)methyl)azetidine-3-carboxylate | [N+](=O)([O-])C=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)CN1CC(C1)C(=O)OC | C27H24N4O4S
